US08492549B2
To a mixture of 2,3-dihydrobenzo[1,4]dioxine-2-carbonyl chloride (2.0 g, 10.0 mmol) and 4-oxopiperidine-3-carboxylic acid methyl ester (2.14 g, 11.0 mmol) in DMF (5 ml) was added triethylamine (1.54 ml). The reaction mixture was stirred at RT for 5 h. The reaction mixture was taken up in water, made alkaline with aq NaOH and extracted with DCM to give 1-(2,3-dihydrobenzo[1,4]dioxine-2-carbonyl)-4-oxopiperidine-3-carboxylic acid methyl ester. A mixture of this product (0.2 g, 0.62 mmol), K2CO3 (0.17 g, 1.23 mmol) and methyl iodide (0.08 ml, 1.25 mmol) in acetone (20 ml) was irradiated in the microwave reactor at 56° C. for 90 min. Water was added and the reaction mixture extracted with EtOAc (3×5 ml). The combined organic phases were dried over Na2SO4, filtered and the filtrate was evaporated to give 1-(2,3-dihydrobenzo[1,4]dioxine-2-carbonyl)-3-methyl-4-oxopiperidine-3-carboxylic acid methyl ester, which was finally reduced with LiAlH4 in THF to afford the title compound.

reactant | 2,3-dihydrobenzo[1,4]dioxine-2-carbonyl chloride | 10.0 mmol, 2.0 g | O1C(COC2=C1C=CC=C2)C(=O)Cl | C9H7ClO3
reactant | 4-oxopiperidine-3-carboxylic acid methyl ester | 11.0 mmol, 2.14 g | COC(=O)C1CNCCC1=O | C7H11NO3
reactant | triethylamine | 1.54 ml | C(C)N(CC)CC | C6H15N
reactant | NaOH | [OH-].[Na+]
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 1-(2,3-dihydrobenzo[1,4]dioxine-2-carbonyl)-4-oxopiperidine-3-carboxylic acid methyl ester | COC(=O)C1CN(CCC1=O)C(=O)C1COC2=C(O1)C=CC=C2 | C16H17NO6
